US08217027B2
To a slurry of silica gel (1 g) and copper sulfate hydrate (1 g) in toluene (10 mL) was added (5R,7R)-7-(4-(7-hydroxy-7-methyloctyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (230 mg, 0.640 mmol). The reaction mixture was heated to 100° C. After 2 days Na2SO4 (approx. 500 mg) was added. After an additional 1 day at 100° C. the reaction mixture was cooled to room temperature and filtered, rinsing with EtOAc. The resulting alkene was added to a slurry of palladium hydroxide on carbon (4.49 mg, 0.032 mmol) in MeOH (10.00 mL). Hydrogen was bubbled through the solution for 5 min and an atmosphere of hydrogen was maintained via balloon. After 15 h the reaction mixture was filtered and concentrated in vacuo. The crude alkane was purified by chromatography on silica gel (EtOAc/Hep) to provide (5R,7R)-7-(4-(7-methyloctyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (120 mg, 0.349 mmol, 54.6% yield) as a colorless solid.

reactant | (5R,7R)-7-(4-(7-hydroxy-7-methyloctyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 0.640 mmol, 230 mg | OC(CCCCCCC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1)(C)C | C22H33NO3
reactant | Na2SO4 | approx. 500 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 10.00 mL | CO | CH4O
catalyst | copper sulfate hydrate | 1 g | O.S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | palladium hydroxide on carbon | 0.032 mmol, 4.49 mg | [OH-].[OH-].[Pd+2]
product | (5R,7R)-7-(4-(7-methyloctyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 0.349 mmol, 120 mg, 54.6% yield | CC(CCCCCCC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1)C | C22H33NO2
